US04138571
Ethyl β-methoxy-β-(2-chloro-5-nitrophenylimino)propionate
To a flask equipped with stirrer and condenser are charged: 156.0 g (0.8 mole of ethyl-3-iminopropionate hydrochloride. 103.0 g (0.6 mole 2- chloro-5-nitroaniline, and 500 ml reagent grade methanol (anhydrous). The resulting mixture is stirred at room temperature (ca. 20° C.) for 20 hours, whereupon it is heated to reflux for one hour while being concentrated to a pot temperature of 100° C. while distilling off methanol at atmospheric pressure, cooled to room temperature, and ammonium chloride filtered off. The resulting salt is washed well with 200 ml of methanol (water free) and the filtrate cooled. The product is filtered to yield 84.6 g (47%), and recrystallized from isopropanol-heptane (50/50 by volume), to yield a product having a melting point of 60-62° C.

reactant | ethyl-3-iminopropionate hydrochloride | 0.8 mole | Cl.C(C)OC(CC=N)=O
reactant | 2- chloro-5-nitroaniline | 0.6 mole | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | methanol | CO | CH4O
product | Ethyl β-methoxy-β-(2-chloro-5-nitrophenylimino)propionate | COC(CC(=O)OCC)=NC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C12H13ClN2O5
